US09290451B2
b) 5-Cyclopentyl-pyridine-2-carboxylic acid
A suspension of 5-cyclopentenyl-pyridine-2-carboxylic acid (2.0 g, 11 mmol) and palladium on carbon (10% w/w, 0.5 g) in methanol (20 mL) under a hydrogen atmosphere was stirred at ambient temperature overnight. The mixture was filtered and the filtrate concentrated in vacuo to give the title compound which was used in the next step without further purification (1.4 g, 72%); MS (EI): m/e=192.1 [M+H]+.

reactant | 5-cyclopentenyl-pyridine-2-carboxylic acid | 11 mmol, 2.0 g | C1(=CCCC1)C=1C=CC(=NC1)C(=O)O | C11H11NO2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | 5-Cyclopentyl-pyridine-2-carboxylic acid | C1(CCCC1)C=1C=CC(=NC1)C(=O)O | C11H13NO2
